US07217724B2
To a solution of 2-methyl-1-{7-[(1S)-1-methyl-2-morpholin-4-yl-2-oxoethoxy]-1H-indol-3-yl}propan-2-amine (68.4 mg, 0.198 mmol) in ethanol (4 mL)- water (0.4 mL) is added (R)-(pyridin-3-yl)oxirane (36.0 mg, 0.297 mmol), and the mixture is refluxed for 8 hours. To the reaction solution is added (R)-(pyridin-3-yl)oxirane (144.0 mg, 1.19 mmol) in 4 portions, and the mixture is heated with stirring at 100 to 1 10° C. in a sealed tube for 18 hours. After the reaction is completed, the solvent is evaporated under reduced pressure, and the obtained residue is purified by silica gel column chromatography (chloroform/methanol=20/1→10/1→chloroform/a saturated ammonia methanol=10/1) to give (1R)-2-[(1,1-dimethyl-2-{7-[(1S)-1-methyl-2-morpholin-4-yl-2-oxoethoxy]-1H-indol-3-yl}ethyl)amino]-1-pyridin-3-ylethanol (23.1 mg).

reactant | 2-methyl-1-{7-[(1S)-1-methyl-2-morpholin-4-yl-2-oxoethoxy]-1H-indol-3-yl}propan-2-amine | 0.198 mmol, 68.4 mg | CC(CC1=CNC2=C(C=CC=C12)O[C@H](C(=O)N1CCOCC1)C)(C)N | C19H27N3O3
reactant | water | 0.4 mL | O | H2O
reactant | (R)-(pyridin-3-yl)oxirane | 0.297 mmol, 36.0 mg | N1=CC(=CC=C1)[C@H]1OC1 | C7H7NO
reactant | (R)-(pyridin-3-yl)oxirane | 1.19 mmol, 144.0 mg | N1=CC(=CC=C1)[C@H]1OC1 | C7H7NO
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | (1R)-2-[(1,1-dimethyl-2-{7-[(1S)-1-methyl-2-morpholin-4-yl-2-oxoethoxy]-1H-indol-3-yl}ethyl)amino]-1-pyridin-3-ylethanol | 23.1 mg | CC(CC1=CNC2=C(C=CC=C12)O[C@H](C(=O)N1CCOCC1)C)(C)NC[C@H](O)C=1C=NC=CC1 | C26H34N4O4
